US05364931
(2S)-2-[N-(tert-Butoxycarbonyl-L-valinyl]amino-1-phenylbut-3-ene
A stirred solution, cooled to 0° C., of 4.81 g (22.13 mmol) of N-(tert-butoxycarbonyl)-L-valine and 3.29 g (24.35 mmol) of HOBT in 40 ml of anhydrous dichloromethane was treated with 5.29 g (25.65 mmol) of DCC and the mixture was stirred for 5 min. A solution of 3.70 g (20.12 mmol) of the compound from Example I and 8.85 ml (80.48 mmol) of N-methylmorpholine in 30 ml of dichloromethane was then added dropwise. The cooling bath was removed and the reaction mixture stirred at room temperature for 2 h. The end of the reaction was determined by thin layer chromatography. The resulting urea was removed by filtration, the filtrate was concentrated in vacuo and the crude product was purified by chromatography on 450 g of silica gel (dichloromethane/methanol 95:5). 6.07 g (87% of theory) of the title compound were obtained as a colourless foam.

reactant | N-(tert-butoxycarbonyl)-L-valine | 22.13 mmol, 4.81 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | HOBT | 24.35 mmol, 3.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 25.65 mmol, 5.29 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-methylmorpholine | 80.48 mmol, 8.85 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(tert-Butoxycarbonyl-L-valinyl]amino-1-phenylbut-3-ene | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)NC(CC=C)C1=CC=CC=C1 | C20H30N2O3
